US07670505B2
A mixture of 9.41 g (0.05 mol) of 6-hydroxy-2-naphthoic acid, 24.03 g (0.15 mol) of 2,6-dihydroxynaphthalene, 0.8 g of p-toluenesulfonic acid monohydrate and 3 drops of concentrated sulfuric acid in 100 ml of toluene was heated under reflux with occasional addition of concentrated sulfuric acid (3 drops every 3 h) for 12 h. The resulting suspension was cooled to room temperature and filtered. The filtercake was suspended in methanol, the suspension was stirred for 3 h and the solid was finally filtered off. 10.9 g of 6-hydroxynaphthyl 6-hydroxy-2-naphthoate (“NpNp”) were obtained as a brownish solid which was processed in the subsequent step without further purification.

reactant | 6-hydroxy-2-naphthoic acid | 0.05 mol, 9.41 g | OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H8O3
reactant | 2,6-dihydroxynaphthalene | 0.15 mol, 24.03 g | OC1=CC2=CC=C(C=C2C=C1)O | C10H8O2
reactant | p-toluenesulfonic acid monohydrate | 0.8 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
product | 6-hydroxynaphthyl 6-hydroxy-2-naphthoate | 10.9 g | OC=1C=C2C=CC(=CC2=CC1)C(=O)OC1=CC=CC2=CC(=CC=C12)O | C21H14O4
